US08252806B2
(2-Chloro-quinazolin-4-yl)-phenyl amine (250 mg, 0.98 mmol) was dissolved in acetonitrile (4 mL) and 3,5-dimethylpyrazole (140 mg, 1.47 mmol) was added. The mixture was heated in a sealed tube at 130° C. for 12 hours. The mixture was concentrated and the residue basified with sodium hydrogencarbonate, extracted with chloroform dried over anhydrous sodium sulfate filtrated and evaporated. The crude product was purified by column chromatography (ethylacetate/hexane) to give [2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-phenyl-amine (150 mg, 49%). Mp. 262.4-265.3° C.

reactant | (2-Chloro-quinazolin-4-yl)-phenyl amine | 0.98 mmol, 250 mg | ClC1=NC2=CC=CC=C2C(=N1)NC1=CC=CC=C1 | C14H10ClN3
reactant | 3,5-dimethylpyrazole | 1.47 mmol, 140 mg | CC1=NNC(=C1)C | C5H8N2
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | [2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-phenyl-amine | 150 mg, 49% | CC1=NN(C(=C1)C)C1=NC2=CC=CC=C2C(=N1)NC1=CC=CC=C1 | C19H17N5
